US08703768B2
To a solution of 4-nitro-1H-pyrazole-3-carboxylic acid methyl ester (3.1 g, 18.1 mmol) in dry acetone (2 ml) was added K2CO3 (5 g, 36.2 mmol) at 25° C. The reaction mixture was cooled to 0° C., and methyl iodide (2.2 ml, 36.3 mmol) was added. The temperature was again raised to 25° C., and then heated to 70° C. for 2 hrs. The solvent was removed in vacuo The residue was diluted with EtOA and washed with water and with brine, dried (Na2SO4), filtered, and concentrated. The crude product was purified by column chromatography over silica gel. Elution with 20% EtOAc/hexane) gave the undesired isomer 2-methyl-4-nitro-2H-pyrazole-3-carboxylic acid methyl ester (1 g, 30%), subsequent elution with 40% EtOAc/hexane provided the desired isomer 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester (1.8 g, 54%).

reactant | 4-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 18.1 mmol, 3.1 g | COC(=O)C1=NNC=C1[N+](=O)[O-] | C5H5N3O4
reactant | K2CO3 | 36.2 mmol, 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 36.3 mmol, 2.2 ml | CI | CH3I
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 1-methyl-4-nitro-1H-pyrazole-3-carboxylic acid methyl ester | 1.8 g, 54% | COC(=O)C1=NN(C=C1[N+](=O)[O-])C | C6H7N3O4
